US07067517B2
Methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester
To a solution of 4-(2-Hydroxyethyl)phenol (10 mmol) and 4-diazabicyclo[2.2.2]octane (DABCO) (10 mmol) in CH2Cl2 (30 mL) was added N-methyl-N-phenylcarbamoyl chloride (10 mmol). The reaction mixture was stirred for 16 hours at rt, added CH2Cl2 (20 mL), and washed with 1M aqueous HCl and brine. The organic phase was dried (MgSO4) and evaporated to give the 2.69 g (99%) of the title compound as crystals.

reactant | 4-(2-Hydroxyethyl)phenol | 10 mmol | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | N-methyl-N-phenylcarbamoyl chloride | 10 mmol | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Methyl-phenyl-carbamic acid 4-(2-hydroxy-ethyl)-phenyl ester | 2.69 g, 99% | OCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C16H17NO3
